US04960897
Preparation of 3-bromo-5-(1-chloromethylvinyl)pyridine (Compound No. I-7)
A mixture of 7.12 g of 3-bromo-5-isopropenylpyridine, 6.85 g of N-chlorosuccinimide and 15 ml of carbon tetrachloride was stirred at 80° C. for 7 hours. After the reaction mixture was cooled to room temperature, the insoluble matter was filtered out. The filtrate was concentrated under a reduced pressure and the residue was purified by silica gel column chromatography (eluted with ethyl acetate-n-hexane 1:19) to obtain 2.23 g of the objective compound.

reactant | 3-bromo-5-isopropenylpyridine | 7.12 g | BrC=1C=NC=C(C1)C(=C)C | C8H8BrN
reactant | N-chlorosuccinimide | 6.85 g | ClN1C(CCC1=O)=O | C4H4ClNO2
solvent | carbon tetrachloride | 15 ml | C(Cl)(Cl)(Cl)Cl | CCl4
product | 3-bromo-5-(1-chloromethylvinyl)pyridine | 2.23 g | BrC=1C=NC=C(C1)C(=C)CCl | C8H7BrClN
